US04985583
7.2 g of ethanethiol and 35 g of 4-pentyl-4'heptyl-4'-hydroxybicyclohexane in 70 ml of glacial acetic acid are added dropwise to a mixture of 30 ml of glacial acetic acid, 11.1 g of acetic anhydride and 7 g of 72% aqueous perchloric acid solution at -20°. The mixture is stirred at room temperature for 24 hours, poured into 250 ml of saturated sodium chloride solution, extracted with petroleum ether and worked up in the customary manner. 4-Pentyl-4'-heptyl-4'-ethylthiobicyclohexane is obtained.

reactant | ethanethiol | 7.2 g | C(C)S | C2H6S
reactant | 4-pentyl-4'heptyl-4'-hydroxybicyclohexane | 35 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)(O)CCCCCCC | C24H46O
reactant | acetic anhydride | 11.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | perchloric acid | 7 g | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium chloride | 250 ml | [Cl-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-Pentyl-4'-heptyl-4'-ethylthiobicyclohexane | C(CCCC)C1CCC(CC1)C1CCC(CC1)(SCC)CCCCCCC | C26H50S
